US09403831B2
6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine hydrochloride (71 mg, 0.14 mmol) was dissolved in DMF (2 ml), and then 2-bromoethanol (16 μl, 0.22 mmol), K2CO3 (100 mg, 0.72 mmol), and Et3N (100 ul, 0.72 mmol) were added, followed by stirring at room temperature overnight. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (MeOH:MC=1:10), to give 2-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-5,6-dihydropyridin-1(2H)-yl)ethanol (10 mg, 13%).

reactant | 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1,2,3,6-tetrahydropyridin-4-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine hydrochloride | 0.14 mmol, 71 mg | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C=2CCNCC2
reactant | 2-bromoethanol | 0.22 mmol, 16 μl | BrCCO | C2H5BrO
reactant | K2CO3 | 0.72 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Et3N | 0.72 mmol, 100 ul | CCN(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-5,6-dihydropyridin-1(2H)-yl)ethanol | 10 mg, 13% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=CCN(CC2)CCO | C25H31N11O
